US07943612B2
(2-Methyl-4-{3-[3-(3-morpholin-4-yl-prop-1-ynyl)-5-phenylethynyl-phenyl]-prop-2-ynyloxy}-phenoxy)-acetic acid
To a solution of (2-methyl-4-{3-[3-(3-morpholin-4-yl-prop-1-ynyl)-5-phenylethynylphenyl]-prop-2-ynyloxy}-phenoxy)-acetic acid methyl ester (70 mg, 0.13 mmol) in THF (1.25 ml) and methanol (0.25 ml) was added a ice-cold solution of LiOH (1 M, 1.25 ml). The reaction mixture was stirred at 0° C. for 460 min., after which water (10 ml) and aqueous HCl (1M, 1.75 ml) were added. The mixture was extracted with ethyl acetate (2×10 ml), and the combined organic phases were dried and evaporated to give the title compound in 68 mg (100%) yield.

reactant | (2-methyl-4-{3-[3-(3-morpholin-4-yl-prop-1-ynyl)-5-phenylethynylphenyl]-prop-2-ynyloxy}-phenoxy)-acetic acid methyl ester | 0.13 mmol, 70 mg | COC(COC1=C(C=C(C=C1)OCC#CC1=CC(=CC(=C1)C#CC1=CC=CC=C1)C#CCN1CCOCC1)C)=O | C34H31NO5
reactant | LiOH | 1 M, 1.25 ml | [Li+].[OH-]
reactant | water | 10 ml | O | H2O
reactant | HCl | 1M, 1.75 ml | Cl | ClH
solvent | THF | 1.25 ml | C1CCOC1 | C4H8O
solvent | methanol | 0.25 ml | CO | CH4O
product | (2-Methyl-4-{3-[3-(3-morpholin-4-yl-prop-1-ynyl)-5-phenylethynyl-phenyl]-prop-2-ynyloxy}-phenoxy)-acetic acid | CC1=C(OCC(=O)O)C=CC(=C1)OCC#CC1=CC(=CC(=C1)C#CC1=CC=CC=C1)C#CCN1CCOCC1 | C33H29NO5
